US07776910B2
A solution of LAH (1.0 M in THF, 0.51 mL) was added to a solution of {3-[4-(3-hydroxy-benzenesulfonyl)-2-methyl-phenyl]-pyrrolidin-1-yl}-acetic acid tert-butyl ester (85 mg, 0.2036 mmol) in THF (1 mL). The reaction mixture was stirred at reflux for 2 hours, it was cooled to room temperature and Na2SO4. 10H2O was added. The mixture was filtered and the filtrate was evaporated under reduced pressure. The residue was purified via flash chromatography (DCM/MeOH/NH4OH) to give 42 mg of 3-[3-methyl-4-(1-methyl-pyrrolidin-3-yl)-benzenesulfonyl]-phenol as a white foam: MS (M+H)=332.

reactant | LAH | 1.0 M, 0.51 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | {3-[4-(3-hydroxy-benzenesulfonyl)-2-methyl-phenyl]-pyrrolidin-1-yl}-acetic acid tert-butyl ester | 0.2036 mmol, 85 mg | C(C)(C)(C)OC(CN1CC(CC1)C1=C(C=C(C=C1)S(=O)(=O)C1=CC(=CC=C1)O)C)=O | C23H29NO5S
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 3-[3-methyl-4-(1-methyl-pyrrolidin-3-yl)-benzenesulfonyl]-phenol | 42 mg | CC=1C=C(C=CC1C1CN(CC1)C)S(=O)(=O)C=1C=C(C=CC1)O | C18H21NO3S
